US03940421
Following a procedure similar to that described in Example 1B hereinabove, methyl 3-oxo-2,3,4,5-tetrahydrothiophene-2-carboxylate is reacted with 5-(2-heptyl)resorcinol to give 1,2-dihydro-7-(2-heptyl)-9-hydroxy-4-oxo-4H-thieno[2,3-c][1]benzopyran.

reactant | methyl 3-oxo-2,3,4,5-tetrahydrothiophene-2-carboxylate | O=C1C(SCC1)C(=O)OC | C6H8O3S
reactant | 5-(2-heptyl)resorcinol | CC(CCCCC)C=1C=C(C=C(O)C1)O | C13H20O2
product | 1,2-dihydro-7-(2-heptyl)-9-hydroxy-4-oxo-4H-thieno[2,3-c][1]benzopyran | CC(CCCCC)C1=CC2=C(C3=C(C(O2)=O)SCC3)C(=C1)O | C18H22O3S
